### PR TITLE
[Merged by Bors] - feat: value of f (x + n * c), where f is antiperiodic with antiperiod c

### PR DESCRIPTION
**Pull request by trivial1711**
Add `@[simp]` theorem `negOnePow_two_mul_add_one` to `Algebra.GroupPower.NegOnePow`, which states that `(2 * n + 1).negOnePow = -1`.

Add theorems to `Algebra.Periodic` about the value of `f (x + n • c)`, `f (x - n • c)`, and `f (n • c - x)`, where we have `Antiperiodic f c`. All these theorems have variants for either `n : ℕ` or `n : ℤ`, and they also have variants using `*` instead of `•` if the domain and codomain of `f` are rings.

For all real numbers `x` and all integers `n`. deduce the following. All these theorems are in `Analysis.SpecialFunctions.Trigonometric.Basic`, they are not `@[simp]`, and they have a variation (using the notation `(-1) ^ n` instead of `n.negOnePow`) for natural number `n`.
- `sin (x + n * π) = n.negOnePow * sin x`
- `sin (x - n * π) = n.negOnePow * sin x`
- `sin (n * π - x) = -(n.negOnePow * sin x)`
- `cos (x + n * π) = n.negOnePow * cos x`
- `cos (x - n * π) = n.negOnePow * cos x`
- `cos (n * π - x) = n.negOnePow * cos x`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupPower/NegOnePow.lean [hunk 1]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2023 Joël Riou. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joël Riou, Johan Commelin
+Authors: Joël Riou, Johan Commelin, Mitchell Lee
```
Comment (grunweg) [inline Mathlib/Algebra/GroupPower/NegOnePow.lean:4]: My understanding is that the authors in the copyright line currently used not as "everybody who contributed anything to the file", but rather as "people who contributed a lot - so if we have a question, we ask them".
Your lemmas are nice, but imho don't fundamentally change the file; so personally, I'd remove myself. (This is not to say your contribution were unimportant!)

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 2]
```diff
@@ -1,10 +1,12 @@
 /-
 Copyright (c) 2018 Chris Hughes. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Chris Hughes, Abhimanyu Pallavi Sudhir, Jean Lo, Calle Sönne, Benjamin Davidson
+Authors: Chris Hughes, Abhimanyu Pallavi Sudhir, Jean Lo, Calle Sönne, Benjamin Davidson,
+    Mitchell Lee
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:5]: Same here.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 3]
```diff
@@ -320,6 +322,37 @@ theorem sin_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : sin (n * (2 * π) - x) = -s
   sin_neg x ▸ sin_periodic.int_mul_sub_eq n
 #align real.sin_int_mul_two_pi_sub Real.sin_int_mul_two_pi_sub
 
+theorem sin_add_int_mul_pi (x : ℝ) (n : ℤ) : sin (x + n * π) = n.negOnePow * sin x := by
+  rcases Int.even_or_odd' n with ⟨k, hk⟩
+  rcases hk with rfl | rfl
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:327]: You can combine these two lines into one.
```suggestion
rcases Int.even_or_odd' n with ⟨k, rfl | rfl⟩

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 4]
```diff
@@ -320,6 +322,37 @@ theorem sin_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : sin (n * (2 * π) - x) = -s
...
+  · rw [Int.cast_mul, Int.cast_two, mul_comm 2, mul_assoc]
+    simp
+  · rw [Int.cast_add, Int.cast_one, Int.cast_mul, Int.cast_two,
+      add_mul, ← add_assoc, mul_comm 2, mul_assoc]
+    simp
+
+theorem sin_add_nat_mul_pi (x : ℝ) (n : ℕ) : sin (x + n * π) = (-1) ^ n * sin x := by
+  have := sin_add_int_mul_pi x n
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:335]: You can combine these into one line, if you want:
```
simpa [Int.negOnePow_def] using sin_add_int_mul_pi x n

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 5]
```diff
@@ -320,6 +322,37 @@ theorem sin_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : sin (n * (2 * π) - x) = -s
...
+  simpa [Int.negOnePow_def]
+
+theorem sin_sub_int_mul_pi (x : ℝ) (n : ℤ) : sin (x - n * π) = n.negOnePow * sin x := by
+  convert sin_add_int_mul_pi x (-n) using 2
+  · rw [Int.cast_neg]; ring
+  · simp
+
+theorem sin_sub_nat_mul_pi (x : ℝ) (n : ℕ) : sin (x - n * π) = (-1) ^ n * sin x := by
+  have := sin_sub_int_mul_pi x n
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:344]: Same here.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 6]
```diff
@@ -320,6 +322,37 @@ theorem sin_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : sin (n * (2 * π) - x) = -s
...
+  simpa [Int.negOnePow_def]
+
+theorem sin_int_mul_pi_sub (x : ℝ) (n : ℤ) : sin (n * π - x) = -(n.negOnePow * sin x) := by
+  convert sin_add_int_mul_pi (-x) n using 1
+  · ring_nf
+  · simp
+
+theorem sin_nat_mul_pi_sub (x : ℝ) (n : ℕ) : sin (n * π - x) = -((-1) ^ n * sin x) := by
+  have := sin_int_mul_pi_sub x n
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:353]: And here, and in a few places below.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 7]
```diff
@@ -397,6 +430,37 @@ theorem cos_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : cos (n * (2 * π) - x) = co
   cos_neg x ▸ cos_periodic.int_mul_sub_eq n
 #align real.cos_int_mul_two_pi_sub Real.cos_int_mul_two_pi_sub
 
+theorem cos_add_int_mul_pi (x : ℝ) (n : ℤ) : cos (x + n * π) = n.negOnePow * cos x := by
+  rcases Int.even_or_odd' n with ⟨k, hk⟩
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:434]: These two lines can be combined.

**Review by grunweg — COMMENTED** [review]
Thank you for this contribution, it's nice for such API gaps to get filled!

I have a few golfing suggestions, which should be quick to address.

**Comment by trivial1711** [comment]
Thanks for the feedback. I have made the changes you suggest.

**Comment by trivial1711** [comment]
I wonder whether these theorems should all be a special case of more general theorems for `Antiperiodic` functions (https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Periodic.html#Function.Antiperiodic).

**Comment by grunweg** [comment]
At first thought, that certainly sounds useful. In any case, these results for anti-periodic functions would be nice to have (and the identities for sin and cos and be deduced from that).

**Comment by trivial1711** [comment]
Hello, I've redone this branch so that it deduces the facts about sin and cos from more general facts about Antiperiodic functions.

File: Mathlib/Algebra/Periodic.lean [hunk 8]
```diff
@@ -373,6 +374,11 @@ protected theorem Antiperiodic.funext' [Add α] [InvolutiveNeg β] (h : Antiperi
...
 #align function.antiperiodic.funext' Function.Antiperiodic.funext'
 
+/-- If a function is `antiperiodic` with antiperiod `c`, then it is also `periodic` with period
+  `2 • c`. -/
+protected theorem Antiperiodic.periodic_two_nsmul [AddMonoid α] [InvolutiveNeg β]
+    (h : Antiperiodic f c) : Periodic f (2 • c) := by simp [two_nsmul, ← add_assoc, h _]
+
 /-- If a function is `antiperiodic` with antiperiod `c`, then it is also `periodic` with period
   `2 * c`. -/
 protected theorem Antiperiodic.periodic [Semiring α] [InvolutiveNeg β] (h : Antiperiodic f c) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Periodic.lean:384]: Can you replace this lemma with yours (keeping `Antiperiodic.periodic` as the name)?

**Review by YaelDillies — COMMENTED** [review]
Why state half of your lemmas using `negOnePow` and the other half using `(-1)^n`?

**Comment by trivial1711** [comment]
> Why state half of your lemmas using `negOnePow` and the other half using `(-1)^n`?

You can't write simply `(-1) ^ n` if `n` is an integer, only if it's a natural number.

File: Mathlib/Algebra/Periodic.lean (hunk 8 above)
Comment (trivial1711) [reply Mathlib/Algebra/Periodic.lean]: I've done the replacement. I kept the old `Antiperiodic.periodic` and renamed it to `Antiperiodic.periodic_two_mul`. I didn't want to delete it entirely because it aligns with the mathlib3 version.

**Comment by YaelDillies** [comment]
In a field, you certainly can?

**Comment by trivial1711** [comment]
Good point. Does that mean I should state the lemmas about trigonometric functions using `(-1) ^ n`, but continue to use `negOnePow` for the general lemmas about antiperiodic functions?

**Comment by YaelDillies** [comment]
Yes, that seems best. From my limited understanding, `negOnePow` is meant to be used on non-field rings.

**Comment by trivial1711** [comment]
After playing around with this, I now think that `Field.zpow` is so difficult to work with that it would be better to leave it as `negOnePow` for now. Unless I am missing something, there are no lemmas in mathlib about `Field.zpow` at all, aside from the ones that are part of the definition of a field: https://loogle.lean-lang.org/?q=Field.zpow.

For example, let `K` be a field. It's almost comically difficult to prove something like `(-1 : K) ^ (m + n) = (-1 : K) ^ m * (-1 : K) ^ n`. On the other hand, this equation is very easy if you use `negOnePow` instead.

Even if the API of `Field.zpow` were filled out more to include the equation `x ^ (m + n) = x ^ m * x ^ n` for nonzero `x` (note that it's not true for `x = 0`), you'd still have to include a proof that `-1 ≠ 0` every time you want to do the simplification `(-1 : K) ^ (m + n) = (-1 : K) ^ m * (-1 : K) ^ n`.

I think part of the purpose of `negOnePow` is to be able to write expressions like `(-1) ^ n` without using `Field.zpow`.

**Comment by YaelDillies** [comment]
Nobody uses `Field.zpow` in real life. We use `^` notation instead and the lemmas refer to it as `zpow`, eg `x ^ (m + n) = x ^ m * x ^ n` for nonzero `x` is `zpow_add₀`.

**Comment by trivial1711** [comment]
ok, I've fixed it. thanks!

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 9]
```diff
@@ -321,20 +321,20 @@ theorem sin_int_mul_two_pi_sub (x : ℝ) (n : ℤ) : sin (n * (2 * π) - x) = -s
   sin_neg x ▸ sin_periodic.int_mul_sub_eq n
 #align real.sin_int_mul_two_pi_sub Real.sin_int_mul_two_pi_sub
 
-theorem sin_add_int_mul_pi (x : ℝ) (n : ℤ) : sin (x + n * π) = n.negOnePow * sin x :=
-  sin_antiperiodic.add_int_mul_eq n
+theorem sin_add_int_mul_pi (x : ℝ) (n : ℤ) : sin (x + n * π) = (-1) ^ n * sin x :=
+  @Int.coe_negOnePow ℝ _ n ▸ sin_antiperiodic.add_int_mul_eq n
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:325]:
```suggestion
  Int.coe_negOnePow n ▸ sin_antiperiodic.add_int_mul_eq n
```
If this doesn't work, make sure to turn the `K` argument explicit in `Int.coe_negOnePow`

File: Mathlib/Algebra/GroupPower/NegOnePow.lean [hunk 10]
```diff
@@ -90,4 +94,11 @@ lemma negOnePow_eq_iff (n₁ n₂ : ℤ) :
 lemma negOnePow_mul_self (n : ℤ) : (n * n).negOnePow = n.negOnePow := by
   simpa [mul_sub, negOnePow_eq_iff] using n.even_mul_pred_self
 
+lemma coe_negOnePow (n : ℤ) (K : Type*) [Field K]: n.negOnePow = (-1 : K) ^ n := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupPower/NegOnePow.lean:97]:
```suggestion
lemma coe_negOnePow (K : Type*) (n : ℤ) [Field K] : n.negOnePow = (-1 : K) ^ n := by
```
is more idiomatic

**Review by YaelDillies — COMMENTED** [review]
This looks alright to me but I need a second pair of eyes

maintainer merge

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors merge
